US07834030B2
To a solution of 900 mg of 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol in 2 mL of tetrahydrofuran at 5° C. was slowly added 3.3 mL of a molar solution of potassium tert-butoxide in tert-butanol. After stirring at 5° C. for 30 minutes, the resulting solution was slowly added to a solution of 469 mg of 2,4,5-trifluoro-benzonitrile in 2 mL of tetrahydrofuran at −60° C. The resulting mixture was stirred for 1 h at −60° C. then stirred overnight allowing the temperature to warm up to room temperature. It was then poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from heptane 100 to heptane 80/ethyl acetate 20) to give 1.25 g of 2,5-difluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile.

reactant | 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 900 mg | CC=1N=C(SC1C(CC)O)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,4,5-trifluoro-benzonitrile | 469 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,5-difluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile | 1.25 g | FC1=C(C#N)C=C(C(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C21H15F5N2OS
